US09145433B2
Cyanogen bromide (62 mg) in dry acetonitrile (1 mL) was added to a screw capped vial containing a stirring solution of (2′-(4-fluoro-3-methylphenyl)-[3,3′-bipyridin]-6-yl)methanamine.xHCl (120 mg), i-Pr2NEt (0.2 mL) and anhydrous toluene. After 4 h, the reaction mixture was concentrated and purified by reverse phase preparative HPLC conditions provided 6-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)imidazo[1,5-a]pyridin-3-amine (28 mg).

reactant | Cyanogen bromide | 62 mg | N#CBr | CBrN
reactant | (2′-(4-fluoro-3-methylphenyl)-[3,3′-bipyridin]-6-yl)methanamine | FC1=C(C=C(C=C1)C1=NC=CC=C1C=1C=NC(=CC1)CN)C | C18H16FN3
reactant | i-Pr2NEt | 0.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 6-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)imidazo[1,5-a]pyridin-3-amine | 28 mg | FC1=C(C=C(C=C1)C1=NC=CC=C1C=1C=CC=2N(C1)C(=NC2)N)C | C19H15FN4
